US04801610
3,4,5,4',5',6',-hexapivaloyloxybenzophenone
100 mg of 3,4,5,4',5',6'-hexahydroxy benzophenone (0.00036 mole) and 450 MG (0.004 mole) of pivaloyl chloride were warmed to 50° C. in 20 mls of pyridine for 4 hrs. Solvent removed via N2 stream. Water added and extraction of product was done via CH2Cl2. The organic layer was washed with K2CO3 (5%) and dried over MgSo4. Solvent removal left an oil. 250 mg. (88%) yield.

reactant | 3,4,5,4',5',6'-hexahydroxy benzophenone | 0.00036 mole, 100 mg | OC=1C=C(C(=O)C2=CC=C(C(=C2O)O)O)C=C(C1O)O | C13H10O7
reactant | pivaloyl chloride | 0.004 mole | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 20 mls | N1=CC=CC=C1 | C5H5N
product | 3,4,5,4',5',6',-hexapivaloyloxybenzophenone | C(C(C)(C)C)(=O)OC=1C=C(C(=O)C2=CC=C(C(=C2OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)C=C(C1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O | C43H58O13
